US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (200 mg, 1.00 mmol) and 2-aminopyridine (188 mg, 2.00 mmol) in DCM (2 mL) was added powdered KOH (392 mg, 7.00 mmol), and the reaction mixture was stirred at 85° C. for 2 h. The progress of reaction was monitored by TLC and LCMS. DCM was removed under reduced pressure. Water was added to the residue and extracted with EtOAc (2×50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated to afford crude material, which was purified by reverse phase HPLC to yield (2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-ylmethyl)-pyridin-2-yl-amine. 1H NMR (CDCl3, freebase) δ (ppm): 8.1 (d, 1H), 7.38 (m, 2H), 7.18 (s, 1H), 7.0 (d, 1H), 6.6 (t, 1H), 6.3 (d, 1H), 5.57 (s, 2H), 5.26 (bs, 1H), 3.8 (s, 2H), 3.1 (t, 2H), 3.0 (t, 2H), 2.6 (s, 3H), 2.4 (s, 3H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.00 mmol, 200 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 2-aminopyridine | 2.00 mmol, 188 mg | NC1=NC=CC=C1 | C5H6N2
reactant | KOH | 7.00 mmol, 392 mg | [OH-].[K+]
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-ylmethyl)-pyridin-2-yl-amine | CN1CC2=C(N(C=3C=CC(=CC23)C)CNC2=NC=CC=C2)CC1 | C19H22N4
